US07579474B2
4-[4-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDIN-4-OL
Preparation according to Example 2: 4-[4-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol (0.4 g, 1.52 mmol), acetonitrile (20 ml), potassium carbonate (0.42 g, 3.0 mmol), iodopropane (0.18 ml, 1.82 mmol). Yield: 0.31 g, 67%. The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 179-181° C. MS m/z (relative intensity, 70 eV) 305 (M+, 5), 276 (bp), 258 (52), 256 (23), 185 (50).

reactant | 4-[4-fluoro-3-(trifluoromethyl)phenyl]piperidin-4-ol | 1.52 mmol, 0.4 g | FC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13F4NO
reactant | potassium carbonate | 3.0 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodopropane | 1.82 mmol, 0.18 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[4-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDIN-4-OL | FC1=C(C=C(C=C1)C1(CCN(CC1)CCC)O)C(F)(F)F | C15H19F4NO
